US05183492
Analogously to the procedure described in Example 74, from 2-chloro-5-nitro-benzoic acid via its acid chloride and ethyl α-hydroxy-isobutyrate there is obtained ethyl 2-(2-chloro-5-nitro-benzoyloxy)-2-methyl-propionate, m.p. 64°-66° C., which is subsequently reduced to ethyl 2-(5-amino-2-chloro-benzoyloxy)-2-methyl-propionate. B.p. 200°-230° C./0.1 torr;

reactant | 2-chloro-5-nitro-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | ethyl α-hydroxy-isobutyrate | OC(C(=O)OCC)(C)C | C6H12O3
product | ethyl 2-(2-chloro-5-nitro-benzoyloxy)-2-methyl-propionate | ClC1=C(C(=O)OC(C(=O)OCC)(C)C)C=C(C=C1)[N+](=O)[O-] | C13H14ClNO6
